US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BIS(3-METHYLBENZYL)AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 3-methylbenzaldehyde according to the procedure of Example 66. MS (ESI) m/z 587.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 3-methylbenzaldehyde | CC=1C=C(C=O)C=CC1 | C8H8O
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}BIS(3-METHYLBENZYL)AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N(CC1=CC(=CC=C1)C)CC1=CC(=CC=C1)C)C(F)(F)F | C39H33F3N2
